US07674825B2
Methyl 7-anilino-6-(4-methoxycarbonylbenzyl)heptanoate
30.0 mg (0.33 mmol) of aniline are dissolved in dichloromethane and 0.02 ml of acetic acid and a solution of 90.6 mg (0.30 mmol) of ethyl 6-forrnyl-7-(4-methoxy-carbonylphenyl)heptanoate (synthesis cf. EP-A-0 341 551, p. 32, Ex. 44) in dichloromethane are added. After 30 minutes at room temperature, the solution is cooled to 0° C., and 87.7 mg (0.41 mmol) of sodium triacetoxyborohydride are added. The reaction mixture is stirred at room temperature for 18 hours, 0.2 ml of water are added and the mixture is filtered through Extrelut. For purification, the substance is chromatographed on 10 g of silica gel 60 (particle size 0.040-0.063 mm) using the mobile phase cyclohexane/ethyl acetate 3:1 to 1:1.

reactant | aniline | 0.33 mmol, 30.0 mg | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 6-forrnyl-7-(4-methoxy-carbonylphenyl)heptanoate | 0.30 mmol, 90.6 mg | C(=O)C(CCCCC(=O)OCC)CC1C(C=C(C=C1)OC)=C=O | C18H24O5
reactant | sodium triacetoxyborohydride | 0.41 mmol, 87.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 0.2 ml | O | H2O
product | Methyl 7-anilino-6-(4-methoxycarbonylbenzyl)heptanoate | N(C1=CC=CC=C1)CC(CCCCC(=O)OC)CC1=CC=C(C=C1)C(=O)OC | C23H29NO4
